Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.35545076845
[C:2]([H:3])([C:4](=[O:5])[H:6])([H:9])[H:10].[O:1]=[C:7][H:8]>>[O:1][C@:2]([H:3])([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],-0.3253927689
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[C:8][H:9].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],4.44431479696
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[O:9][H:10].[H:8]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[O:9][H:10],-2.74051229946
[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:4])[O:10][H:11]>>[O:1]=[C:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-1.79817496251
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][H:3],1.3999468887600002
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2],0.572316605299
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6],3.50004428735
[C:1]=[C:2]([O:3][C:4]#[C:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[O:3][C:4][C:5],-0.0252041980202
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.20798108316
[H:11].[H:1][C:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[O:12][H:13]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.96250997733
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:5]([H:6])[H:7].[O:3][H:4],3.78291955666
[H:1][C:2](=[O:3])[O:10][C:5](=[C:4])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]1[O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[O:10]1,-1.2905998088
[C:7]([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-2.88661989781
[H:1][C:2]#[C:3][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-2.18196576056
[H:5].[O:1][O:2][C:3](=[C:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.31347478259
[H:1][C:2]#[C:3][O:4][C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-2.41795003936
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.32531428298
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10]>>[H:4].[O:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9][H:10],4.5439732173500005
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[O:11].[H:12],1.7802201842900005
[H:1][O:2][C:3]#[C:4][O:5][C:6][C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.00839391302
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],3.852657792230002
[C:6]([H:7])[H:8].[H:1][O:2][C:3]([O:4][H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.847074172709999
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.38878592956
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-7.11686895142
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],3.80144972809
[C:1]#[C:2][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[C:3]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-6.39615685362
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13].[O:1],4.12101397782
[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.65571546206
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],5.34263307057
